US07449477B2
Add pyrrolidine (0.97 g, 13.67 mmol) to a solution of 4-chloro-2-fluoro-1-nitrobenzene (2 g, 11.40 mmol) in 8 mL anhydrous DMSO under N2. Stir the reaction mixture at 80° C. for 1 h. Cool the mixture, pour into ice-H2O and extract with Et2O (3×30 mL). Wash the organic phase with water and brine, dry over MgSO4, filter, and concentrate. Chromatograph the residue on silica gel using hex/EtOAc 9:1 as eluent to afford 2.29 g (89%) of 1-(5-chloro-2-nitro-phenyl)-pyrrolidine as a yellow solid. Add tin chloride (10 g, 44.15 mmol) to a solution of 1-(5-chloro-2-nitrophenyl)pyrrolidine (2 g, 8.83 mmol) in 25 mL of EtOH under nitrogen. Heat the reaction mixture at 70° C. for 3 h. After cooling, pour the mixture into ice-water, basify (pH=9) with NH4OH, and extract with EtOAc (3×100 mL). Dry the organic phase over MgSO4, concentrate, and purify the residue by silica gel chromatography using hex/EtOAc 8:2 as eluent to obtain 1.56 g (88%) of 1-(2-amino-5-chlorophenyl)pyrrolidine as an oil.

reactant | tin chloride | 44.15 mmol, 10 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 1-(5-chloro-2-nitrophenyl)pyrrolidine | 8.83 mmol, 2 g | ClC=1C=CC(=C(C1)N1CCCC1)[N+](=O)[O-] | C10H11ClN2O2
reactant | NH4OH | [NH4+].[OH-]
solvent | EtOH | 25 mL | CCO | C2H6O
product | 1-(2-amino-5-chlorophenyl)pyrrolidine | 1.56 g, 88% | NC1=C(C=C(C=C1)Cl)N1CCCC1 | C10H13ClN2
